US04780471
2-[2-(2,4-Dichlorobenzyloxy)phenyl]-3-(1,2,4-triazol-1-yl)-1-propene
1,2,4-Triazole (59 mg, 0.854 mmole) and potassium carbonate (129 mg, 0.933 mmole) were suspended in dimethylformamide (1 ml) and a solution of 2-[2-(2,4-dichlorobenzyloxy)phenyl]-3-bromo-1-propene (290 mg, 0.779 mmole) in dimethylformamide (2 ml) was added dropwise to the suspension. Then, after stirring overnight at room temperature, the reaction mixture was worked up according to the same manner as in Example 25 to obtain the title compound (0.20 g, 71.2%). By comparing 1H-NMR and Rf value of TLC of the resulting compound with those of the product of the alternative process described in Example 34, it was confirmed that both chemical structures were identical with each other.

reactant | 1,2,4-Triazole | 0.854 mmole, 59 mg | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.933 mmole, 129 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[2-(2,4-dichlorobenzyloxy)phenyl]-3-bromo-1-propene | 0.779 mmole, 290 mg | ClC1=C(COC2=C(C=CC=C2)C(=C)CBr)C=CC(=C1)Cl | C16H13BrCl2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[2-(2,4-Dichlorobenzyloxy)phenyl]-3-(1,2,4-triazol-1-yl)-1-propene | 0.20 g, 71.2% | ClC1=C(COC2=C(C=CC=C2)C(=C)CN2N=CN=C2)C=CC(=C1)Cl | C18H15Cl2N3O
